US04334089
108.5 g of malonic acid diethyl ester are added dropwise, at 50°, to a sodium ethylate solution freshly prepared from 15.6 g of sodium and 750 ml of ethanol. The mixture is kept at the above temperature for 2.5 hours and 220 g of p-toluenesulphonic acid 3-(4-chlorophenyl)-propyl ester are then added dropwise. After the addition, the mixture is stirred at 50° for 6 hours, 800 ml of water are then added and the mixture is extracted 3 times with a total of 1 liter of diethyl ether. The combined organic phases are dried over sodium sulphate, the solvent is evaporated off and the residue is distilled. 105.6 g of 3-(4-chlorophenyl)-propylmalonic acid diethyl ester of b.p. 145°-155° under 0.01 mm Hg (1.33 Pa) are obtained.

reactant | malonic acid diethyl ester | 108.5 g | C(C)OC(CC(=O)OCC)=O | C7H12O4
reactant | sodium ethylate solution | CC[O-].[Na+]
reactant | sodium | 15.6 g | [Na] | Na
reactant | p-toluenesulphonic acid 3-(4-chlorophenyl)-propyl ester | 220 g | ClC1=CC=C(C=C1)CCCOS(=O)(=O)C1=CC=C(C=C1)C | C16H17ClO3S
solvent | water | 800 ml | O | H2O
solvent | ethanol | 750 ml | C(C)O | C2H6O
product | 3-(4-chlorophenyl)-propylmalonic acid diethyl ester | 105.6 g | C(C)OC(C(C(=O)OCC)CCCC1=CC=C(C=C1)Cl)=O | C16H21ClO4
